US03994961
To a mixture of 5 g. of 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene maleate in 150 ml. of methylene chloride there is added 50 ml. of 2N-sodium hydroxide, the mixture is shaken, the methylene chloride is dried, filtered and evaporated in vacuo to give 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene.

reactant | 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene maleate | C(\C=C/C(=O)O)(=O)O.CN(CCC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 10-(2-dimethylaminoethyl)-10,11-dihydro-5-methylene-5H-dibenzo[a,d]cycloheptene | CN(CCC1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2)C | C20H23N
